US05211739
c. Preparation of Phenyl 1-(N,N-Diethylcarbamoyl)-1,2,4-Triazole-3-Sulfonate
To a flask was added 9.76 g of phenyl 1,2,4-triazole-3sulfonate and 40 ml of dry pyridine. The mixture was stirred under nitrogen until a solution became apparent. Diethylcarbamoyl chloride, 5.6 ml, was then added and the resulting mixture stirred under nitrogen at room temperature for 16 hours. The mixture was then poured into 100 ml of 2N hydrochloric acid and extracted twice with 100 ml portions of ethyl acetate. The ethyl acetate solution was dried using sodium sulfate, filtered and concentrated to yield 11.12 g of the desired product as a white solid.

reactant | phenyl 1,2,4-triazole-3sulfonate | 9.76 g | N1N=C(N=C1)S(=O)(=O)OC1=CC=CC=C1 | C8H7N3O3S
reactant | Diethylcarbamoyl chloride | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | Phenyl 1-(N,N-Diethylcarbamoyl)-1,2,4-Triazole-3-Sulfonate | 11.12 g | C(C)N(C(=O)N1N=C(N=C1)S(=O)(=O)OC1=CC=CC=C1)CC | C13H16N4O4S
